US06583135B2
10-(3-Chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Dihydrochloride
Following the procedure for the preparation of 10-(4-chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole hydrochloride, making non-critical variations, starting with 3-benzoyl-10-(3-chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole, the title compound was obtained. 1H NMR (DMSO-d6) δ 3.05, 3.21, 3.31, 4.51, 6.85, 7.1-7.5, 11.3.

reactant | 10-(4-chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole hydrochloride | Cl.ClC1=CC=C(C=C1)C=1C=2C3=C(NC2C=CC1)CCNCC3
reactant | 3-benzoyl-10-(3-chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=CC(=CC=C1)Cl | C25H21ClN2O
product | 10-(3-Chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1)C=1C=2C3=C(NC2C=CC1)CCNCC3 | InChI=1S/C18H17ClN2.2ClH/c19-13-4-1-3-12(11-13)14-5-2-6-17-18(14)15-7-9-20-10-8-16(15)21-17;;/h1-6,11,20-21H,7-10H2;2*1H
